US09193689B2
To a solution of 3-(6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-piperazin-1-yl}-pyridin-3-yl)-5-methyl-2H-isoquinolin-1-one (214 mg, 0.45 mmol) in THF (1.5 mL) at 5° C. was added 1M TBAF/THF (0.58 mL, 0.58 mmol) dropwise. The reaction mixture was allowed to warm to RT and stirred for 1 h. The reaction mixture was diluted with EtOAc (10 mL) and washed with water and brine. The organic layer was concentrated in vacuo and purified by reverse phase preparative HPLC-MS to obtain 3-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-pyridin-3-yl}-5-methyl-2H-isoquinolin-1-one as a yellow solid (27 mg, 16%).

reactant | 3-(6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-piperazin-1-yl}-pyridin-3-yl)-5-methyl-2H-isoquinolin-1-one | 0.45 mmol, 214 mg | C(C)(C)(C)[Si](OCCN1CCN(CC1)C1=CC=C(C=N1)C=1NC(C2=CC=CC(=C2C1)C)=O)(C)C | C27H38N4O2Si
reactant | TBAF THF | 0.58 mmol, 1M, 0.58 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 3-{6-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-pyridin-3-yl}-5-methyl-2H-isoquinolin-1-one | 27 mg, 16% | OCCN1CCN(CC1)C1=CC=C(C=N1)C=1NC(C2=CC=CC(=C2C1)C)=O | C21H24N4O2
